US07115740B2
To a solution of trans-4-aminocyclohexanol (5.0 g, 43.4 mmol) (TCl US) in dichloromethane (100 mL) was added imidazole (14.78 g, 0.22 mol) (Aldrich) and tert-butyldimethylsilyl chloride (19.63 g, 0.13 mol) (Avocardo Research Chemicals). The reaction mixture was stirred at room temperature for 1 day and then was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was washed with 1N sodium hydroxide solution, water and brine, dried over magnesium sulfate, filtered and concentrated to give trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine. (Yield 7.62 g, 76.5%).

reactant | trans-4-aminocyclohexanol | 43.4 mmol, 5.0 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | imidazole | 0.22 mol, 14.78 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.13 mol, 19.63 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)N)(C)C | C12H27NOSi
